US07842817B2
1,3-Bis(3,4-difluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine
The title compound was prepared from 2-aminobenzimidazole and 3,4-difluorobenzyl bromide by Procedure A. The product was isolated by preparative LCMS to give the title compound as the free base (white solid, mp 114-117° C.). MS(ES+) m/z 387 ([M+1]+, 100). 1NMR (DMSO-d6) δ 5.08 (br s, 4H), 5.86 (br s, 1H), 6.72-6.96 (m, 4H), 7.05-7.22 (m, 2H), 7.35-7.45 (m, 4H).

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
product | 1,3-Bis(3,4-difluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine | FC=1C=C(CN2C(N(C3=C2C=CC=C3)CC3=CC(=C(C=C3)F)F)=N)C=CC1F | C21H15F4N3
